US09056859B2
To a solution of [4-(acetyloxy)-3-methoxyphenyl]acetic acid (650 mg, 2.90 mmol) in DMF (10 mL) was added a solution of NCS (428 mg, 3.192 mmol) in DMF (5 mL) dropwise at 0° C. The mixture was stirred at ambient temperature for 6 hrs, and then poured into water (100 mL) and extracted with EtOAc (3*100 mL). The combined organic layers were washed with 1 N HCl, brine, dried over Na2SO4 and then concentrated to obtain [4-(acetyloxy)-2-chloro-5-methoxyphenyl]acetic acid.

reactant | [4-(acetyloxy)-3-methoxyphenyl]acetic acid | 2.90 mmol, 650 mg | C(C)(=O)OC1=C(C=C(C=C1)CC(=O)O)OC | C11H12O5
reactant | NCS | 3.192 mmol, 428 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [4-(acetyloxy)-2-chloro-5-methoxyphenyl]acetic acid | C(C)(=O)OC1=CC(=C(C=C1OC)CC(=O)O)Cl | C11H11ClO5
